US07563796B2
Preparation of 7-(4-Methoxy-3-methylphenyl)-7-(3-propoxyphenyl)-2,7-dihydro-3H-imidazo[1.5-a]imidazol-5-amine
A solution of [4,5-dihydro-1H-imidazol-2-yl(4-methoxy-3-methylphenyl)(3-propoxyphenyl)methyl]amine (0.6 g) in chloroform is treated with cyanogen bromide (0.581 g), heated at 60° C. for 5 days and filtered through a pad of silica. The silica pad was eluted with ethyl acetate, followed by elution with (40:5:5) ethyl acetate: methanol: ammonium hydroxide. The eluents were combined and concentrated in vacuo to give a thick yellow oil, which was purified by Gilson preparative reverse phase HPLC system YMC Pro C18, 20 mm×50 mm ID, 5 uM column; 2 mL injection; Solvent A: 0.02% NH4OH/water; Solvent B:0.02% NH4OH/acetonitrile; Gradient: Time O: 95% A; 2 min: 95% A; 14 min: 10% A, 15 min: 10% A, 16 min: 95% A; Flow rate 22.5 mL/min; Detection: 254 nm DAD to afford the title compound was as an off-white, amphorous solid (0.131 g), characterized by LCMS analysis. LCMS Conditions: HP 1100 HPLC system; Waters Xterra MS C18, 2 mm (i.d.)×50 mm (length), 3.5 um column, set at 50° C.; Flow rate 1.0 mL/min; Solvent A: 0.02% NH4OH in water; Solvent B 0.02% NH4OH in ACN; Gradient: Time O: 10% B; 2.5 min 90% B; 3 min 90% B; Sample concentration: ˜2.0 mM; Injection volume: 5 uL; Detection: 220 nm, 254 nm DAD; retention time: 2.34 min, [M−H] 377, [M+H] 379.

reactant | [4,5-dihydro-1H-imidazol-2-yl(4-methoxy-3-methylphenyl)(3-propoxyphenyl)methyl]amine | 0.6 g | N1C(=NCC1)C(C1=CC(=CC=C1)OCCC)(C1=CC(=C(C=C1)OC)C)N | C21H27N3O2
reactant | cyanogen bromide | 0.581 g | N#CBr | CBrN
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 7-(4-Methoxy-3-methylphenyl)-7-(3-propoxyphenyl)-2,7-dihydro-3H-imidazo[1.5-a]imidazol-5-amine | COC1=C(C=C(C=C1)C1(N=C(N2C1=NCC2)N)C2=CC(=CC=C2)OCCC)C | C22H26N4O2
